US06358992B1
Methyl 1-(2-chlorobenzyl)-2-ethyl-3-propylindole-6-carboxylate (278 mg) was prepared from methyl 2-ethyl-3-propionylindole-6-carboxylate (215 mg and 2-chlorobenzyl bromide (0.24 ml) in a similar manner to that of Example 1.

reactant | methyl 2-ethyl-3-propionylindole-6-carboxylate | C(C)C=1NC2=CC(=CC=C2C1C(CC)=O)C(=O)OC | C15H17NO3
reactant | 2-chlorobenzyl bromide | 0.24 ml | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
product | Methyl 1-(2-chlorobenzyl)-2-ethyl-3-propylindole-6-carboxylate | 278 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)OC)CCC)CC)C=CC=C1 | C22H24ClNO2
